US04497813
A solution of 14.3 g of 1-[2-(cyclopropyl-methoxy)-ethyl]-4-(2,3-epoxypropoxy)-benzene (German Offenlegungsschrift No. 2,649,605) and 16.3 g of 5-[2-(benzylamino)-propoxy]-salicylamide in 200 ml of isopropanol is refluxed for 18 hours. The reaction mixture is concentrated by evaporation to leave crude 1-[N-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethyl]-benzylamino]-3-[4-[2-(cyclopropylmethoxy)-ethyl]-phenoxy]-2-propanol in the form of brown oil, which can be further processed without additional purification.

reactant | 1-[2-(cyclopropyl-methoxy)-ethyl]-4-(2,3-epoxypropoxy)-benzene | 14.3 g | C1(CC1)COCCC1=CC=C(C=C1)OCC1CO1 | C15H20O3
reactant | 5-[2-(benzylamino)-propoxy]-salicylamide | 16.3 g | C(C1=CC=CC=C1)NC(COC1=CC=C(C(C(=O)N)=C1)O)C | C17H20N2O3
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 1-[N-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethyl]-benzylamino]-3-[4-[2-(cyclopropylmethoxy)-ethyl]-phenoxy]-2-propanol | C(N)(=O)C=1C=C(OCCN(CC(COC2=CC=C(C=C2)CCOCC2CC2)O)CC2=CC=CC=C2)C=CC1O | C31H38N2O6
